US05786379
(a) Preparation of methyl 2-[3-(1-adamantyl)-4-methoxyphenoxymethyl]-4-thiophenecarboxylate
210 mg (7 mmol) of sodium hydride (80% in oil) and 10 ml of DMF were introduced into a three-necked flask under a stream of nitrogen. A solution of 1.8 g (7 mmol) of 3-(1-adamantyl)-4-methoxyphenol in 20 ml of DMF was added dropwise and the mixture was stirred until the evolution of gas had ceased. A solution of 1.7 g (7.2 mmol) of methyl 2-bromomethyl-4-thiophenecarboxylate in 15 ml of DMF was then added and the mixture was stirred at room temperature for two hours. The reaction medium was poured into water and extracted with ethyl ether. The organic phase was separated out after settling had taken place, dried over magnesium sulfate and evaporated. The solid obtained was triturated from hexane, filtered off and dried. 2.6 g (90%) of the expected methyl ester, having a melting point of 97°-8° C., were recovered.

reactant | sodium hydride | 7 mmol, 210 mg | [H-].[Na+]
reactant | 3-(1-adamantyl)-4-methoxyphenol | 7 mmol, 1.8 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)O | C17H22O2
reactant | methyl 2-bromomethyl-4-thiophenecarboxylate | 7.2 mmol, 1.7 g | BrCC=1SC=C(C1)C(=O)OC | C7H7BrO2S
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 2-[3-(1-adamantyl)-4-methoxyphenoxymethyl]-4-thiophenecarboxylate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(OCC=3SC=C(C3)C(=O)OC)C=CC2OC | C24H28O4S
